US04288610
Thus, for example, in Pesticide Science (1974) 5, 791-799 it is shown that the reaction between ethyl diazoacetate and 1,1-dichloro-4-methylpenta-1,3-diene in the presence of copper sulfate to produce ethyl 2,2-dimethyl-3-(2,2-dichlorovinyl)-cyclopropanecarboxylate, results in a product which is contaminated with up to 20% of ethyl fumarate and maleate.

reactant | ethyl diazoacetate | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | 1,1-dichloro-4-methylpenta-1,3-diene | ClC(=CC=C(C)C)Cl | C6H8Cl2
catalyst | copper sulfate | S(=O)(=O)([O-])[O-].[Cu+2]
product | ethyl 2,2-dimethyl-3-(2,2-dichlorovinyl)-cyclopropanecarboxylate | CC1(C(C1C=C(Cl)Cl)C(=O)OCC)C | C10H14Cl2O2
